US08492401B2
Preparation of 5-methyl-2-phenyl-N-(2-(6-(pyrrolidin-1-ylmethyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)oxazole-4-carboxamide
The title compound was prepared according to amide synthesis general method A, utilizing 2-(6-(pyrrolidin-1-ylmethyl)thiazolo[5,4-b]pyridin-2-yl)aniline and 5-methyl-2-phenyloxazole-4-carboxylic acid. The product was isolated by precipitation by the addition of water, triturated with hot methanol and purified by silica gel chromatography (gradient 0 to 10% methanol in CH2Cl2). MS Calcd for C28H25N5O2S: 495.17. Found (M+H)+ m/z=496.

reactant | 2-(6-(pyrrolidin-1-ylmethyl)thiazolo[5,4-b]pyridin-2-yl)aniline | N1(CCCC1)CC=1C=C2C(=NC1)SC(=N2)C2=C(N)C=CC=C2 | C17H18N4S
reactant | 5-methyl-2-phenyloxazole-4-carboxylic acid | CC1=C(N=C(O1)C1=CC=CC=C1)C(=O)O | C11H9NO3
solvent | water | O | H2O
product | 5-methyl-2-phenyl-N-(2-(6-(pyrrolidin-1-ylmethyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)oxazole-4-carboxamide | CC1=C(N=C(O1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)C=1SC2=NC=C(C=C2N1)CN1CCCC1 | C28H25N5O2S
